US04795755
A mixture of methyl 4-[2-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-6-yloxy]butyrimidate (0.3 g.), ammonium chloride (0.054 g.) and MeOH (5 ml.) was stirred at room temperature for 1 hour. The mixture was treated with the sodium salt of ethyl 2-formylpropionate [prepared from ethylformate (0.37 g.), ethyl propionate (0.51 g.) and a 50% w/w dispersion of sodium hydride in oil (0.5 g.) as in the first part of Example 11] and heated under reflux for 18 hours and then evaporated to dryness. The residue was partitioned between ether and H2O and the aqueous phase acidified to pH 1 and washed with ether. The aqueous phase was neutralised with NaHCO3 and extracted three times with EtOAc, and the combined EtOAc extracts dried and evaporated to dryness. A solution of the residue in acetone was added to a solution of maleic acid in acetone and the precipitate collected and crystallised from aqueous EtOH to give 4-hydroxy-5-methyl-2-(3-[2-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-6-yloxy]propyl)pyrimidine hydrogen maleate (0.1 g.), m.p. 209°-210°.

reactant | methyl 4-[2-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-6-yloxy]butyrimidate | 0.3 g | FC(CN=C(NC1=NC(=CC=C1)OCCCC(OC)=N)N)(F)F | C13H18F3N5O2
reactant | ammonium chloride | 0.054 g | [Cl-].[NH4+]
reactant | sodium | [Na] | Na
reactant | ethyl 2-formylpropionate | C(=O)C(C(=O)OCC)C | C6H10O3
reactant | ethylformate | 0.37 g | C(C)OC=O | C3H6O2
reactant | ethyl propionate | 0.51 g | C(CC)(=O)OCC | C5H10O2
reactant | sodium hydride | [H-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | 4-hydroxy-5-methyl-2-(3-[2-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-6-yloxy]propyl)pyrimidine hydrogen maleate | 0.1 g | C(\C=C/C(=O)O)(=O)O.OC1=NC(=NC=C1C)CCCOC1=CC=CC(=N1)NC(=NCC(F)(F)F)N | InChI=1S/C16H19F3N6O2.C4H4O4/c1-10-8-21-11(24-14(10)26)5-3-7-27-13-6-2-4-12(23-13)25-15(20)22-9-16(17,18)19;5-3(6)1-2-4(7)8/h2,4,6,8H,3,5,7,9H2,1H3,(H,21,24,26)(H3,20,22,23,25);1-2H,(H,5,6)(H,7,8)/b;2-1-
